US05914332
A. N,N-Dibenzyl-(L)-phenylalanine Benzyl Ester
A solution containing L-phenylalanine (161 kg, 975 moles), potassium carbonate (445 kg, 3220 moles), water (675 L), ethanol (340 L), and benzyl chloride (415 kg, 3275 moles) was heated to 90±15° C. for 10-24 hours. The reaction mixture was cooled to 60° C. and the lower aqueous layer was removed. Heptane (850 L) and water (385 L) were added to the organics, stirred, and the layers separated. The organics were then washed once with a water/methanol mixture (150 L/150 L). The organics were then stripped to give the desired product as an oil, which was carried on in the next step without purification.

reactant | L-phenylalanine | 975 moles, 161 kg | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | potassium carbonate | 3220 moles, 445 kg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 675 L | O | H2O
reactant | benzyl chloride | 3275 moles, 415 kg | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | ethanol | 340 L | C(C)O | C2H6O
product | N,N-Dibenzyl-(L)-phenylalanine Benzyl Ester | C(C1=CC=CC=C1)OC([C@@H](N(CC1=CC=CC=C1)CC1=CC=CC=C1)CC1=CC=CC=C1)=O | C30H29NO2
